US07156731B2
The procedure of Example 1 was repeated except that 3 molar equivalents of p-chlorophenyl acetate (a conventional acylating agent) was used in place of isopropenyl acetate in the presence of three times the amount of the enzyme catalyst used in Example 1 over a reaction period of 42 hours, to obtain (R)-1-phenylethyl acetate having an optical purity of higher than 99%, at a yield of 95%.

reactant | p-chlorophenyl acetate | C(C)(=O)OC1=CC=C(C=C1)Cl | C8H7ClO2
reactant | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
product | (R)-1-phenylethyl acetate | yield of 95% | C(C)(=O)O[C@H](C)C1=CC=CC=C1 | C10H12O2
